US09216980B2
Step 1: 6-Cyano-3-(4-hydroxymethylphenyl)-dipyrido[2,3-b;4′,3′-d]pyrrole-9-carboxylic acid tert-butyl ester
A mixture of 3-bromo-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile (1.00 g, 3.70 mmol), 4-bromomethylbenzeneboronic acid (1.18 g, 5.50 mmol) and 1,1′-[bis(diphenyl phosphino)ferrocene]dichloropalladium(II) (152 mg, 0.19 mmol) in acetonitrile (40 mL) and 2N aqueous potassium fluoride solution (20 mL) was divided equally across four 25 mL microwave vials. Each vial was degassed with nitrogen for 10 minutes before the reaction mixtures were heated under microwave irradiation at 175° C. for 90 minutes. The reaction mixtures were then allowed to cool to ambient temperature, combined, diluted with water (100 mL), the resultant solid collected by filtration, washed with water (50 mL) and diethyl ether (40 mL) and left to air dry. The resultant grey solid was suspended in acetonitrile (250 mL), di-tert-butyldicarbonate (2.00 g, 9.17 mmol) was added and the resulting reaction mixture stirred at 50° C. for 1.5 h. The mixture was allowed to cool to ambient temperature, filtered to remove the solid and the filtrate was evaporated in vacuo. The resultant residue was purified by flash column chromatography (silica, 80 g column, ISCO, 0-70% ethyl acetate in DCM) to afford the title compound as a white solid (385 mg, 26%). 1H NMR (CDCl3, 400 MHz): 9.67 (d, J=1.0 Hz, 1H), 9.08 (d, J=2.3 Hz, 1H), 8.56 (d, J=2.3 Hz, 1H), 8.38 (d, J=1.0 Hz, 1H), 7.68 (d, J=8.0 Hz, 2H), 7.56 (d, J=8.0 Hz, 2H), 4.81 (d, J=5.9 Hz, 2H), 1.82 (s, 9H), 1.75 (t, J=5.9 Hz, 1H). LCMS (Method B): RT=2.70 min, M(-C5H9O2)+H+=301.

reactant | 3-bromo-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile | 3.70 mmol, 1.00 g | BrC1=CC2=C(NC3=C2C=C(N=C3)C#N)N=C1 | C11H5BrN4
reactant | 4-bromomethylbenzeneboronic acid | 5.50 mmol, 1.18 g | BrCC1=CC=C(C=C1)B(O)O | C7H8BBrO2
reactant | di-tert-butyldicarbonate | 9.17 mmol, 2.00 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | 100 mL | O | H2O
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
solvent | potassium fluoride | 2N, 20 mL | [F-].[K+]
product | 6-Cyano-3-(4-hydroxymethylphenyl)-dipyrido[2,3-b;4′,3′-d]pyrrole-9-carboxylic acid tert-butyl ester | 385 mg, 26% | C(C)(C)(C)OC(=O)N1C2=C(C3=C1C=NC(=C3)C#N)C=C(C=N2)C2=CC=C(C=C2)CO | C23H20N4O3
